US05972951
2-(4-Bromo-3-methylphenyl)-5-methyloxazole
N-[2-(1,3-Dioxolan-2-yl)propyl]-4-bromo-3-methylbenzamide (D74, 2.8 g, 8.9 mmole) was added portionwise over 5 minutes to well stirred polyphosphoric acid (50 g) at 120° C. under argon, then heated at 160° C. for 35 minutes. The reaction mixture was allowed to cool, then treated with water (200 ml) and stirred well to dissolve the glassy mass. The mixture was extracted with ethyl acetate and the extract washed with 10% Na2CO3 solution and water, then dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 1:1 ether/60-80 petrol to afford the title compound as a pale yellow solid (2.0 g, 89%).

reactant | N-[2-(1,3-Dioxolan-2-yl)propyl]-4-bromo-3-methylbenzamide | 8.9 mmole, 2.8 g | O1C(OCC1)C(CNC(C1=CC(=C(C=C1)Br)C)=O)C | C14H18BrNO3
solvent | water | 200 ml | O | H2O
product | 2-(4-Bromo-3-methylphenyl)-5-methyloxazole | 2.0 g, 89% | BrC1=C(C=C(C=C1)C=1OC(=CN1)C)C | C11H10BrNO
